US08227801B2
2-chloro-4-(2-methoxyphenyl)pyridin-3-amine (4.3 g, 18 mmol) was dissolved in 91 mL glacial acetic acid and conc. sulfuric acid (0.503 ml, 18.11 mmol). 2-methyl-2-nitropropane (6.22 g, 54.3 mmol) was added dropwise to the reaction mixture at room temperature. Reaction mixture was stirred at 45° C. until the starting material disappears in GC. After complete reaction, most of the acetic acid was distilled out under vacuum and the crude was diluted with DCM. Organic residue was partitioned between DCM and Na2CO3 solution. Organic layer was isolated, washed with brine, dried over anhd. Na2SO4 and solvents were evaporated under vacuum. Crude product was purified by silica gel column chromatography using 10-30% ethyl acetate/hexanes as eluent. 1.5 g 1-chlorobenzofuro[2,3-c]pyridine was isolated as white solid in 41% yield.

reactant | 2-chloro-4-(2-methoxyphenyl)pyridin-3-amine | 18 mmol, 4.3 g | ClC1=NC=CC(=C1N)C1=C(C=CC=C1)OC | C12H11ClN2O
reactant | sulfuric acid | 18.11 mmol, 0.503 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-methyl-2-nitropropane | 54.3 mmol, 6.22 g | CC(C)(C)[N+](=O)[O-] | C4H9NO2
solvent | acetic acid | 91 mL | C(C)(=O)O | C2H4O2
product | 1-chlorobenzofuro[2,3-c]pyridine | 1.5 g, 41% yield | ClC1=NC=CC2=C1OC1=C2C=CC=C1 | C11H6ClNO
